* source LOAD-SWEEP
.EXTERNAL OUTPUT output
C_C5         N46758 OUTPUT  1m  TC=0,0 
C_C1         N46860 N46758  3p  TC=0,0 
R_Ri         N46752 N46694  9.3k TC=0,0 
V_V11         N46992 0 -5Vdc
X_Qm1         N46758 0 N46860 BFP520/INF
X_Qi2         N46860 N46752 N46992 BFP520/INF
C_C2         0 N46860  3p  TC=0,0 
X_Qi1         N46752 N46752 N46992 BFP520/INF
V_V9         N46694 0 5Vdc
L_Lp         N46758 N46694  1nH  
R_RL         0 OUTPUT  {RL} TC=0,0 
.PARAM  rl=100
